US06552188B2
Synthesis of (E)-5-bromo-1-(4-fluorophenyl)-1-pentene
4-Fluorobenzaldehyde (1.0 g) and 4-bromobutyl-triphenylphosphonium bromide (4.62 g) were treated in the same manner as in Preparation Example 83 to obtain the title compound.

reactant | 4-Fluorobenzaldehyde | 1.0 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-bromobutyl-triphenylphosphonium bromide | 4.62 g | [Br-].BrCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-5-bromo-1-(4-fluorophenyl)-1-pentene | BrCCC/C=C/C1=CC=C(C=C1)F | C11H12BrF
